US07935828B2
Thiophene (59.9 g, 0.713 mol) and dehydrated tetrahydrofran (hereinafter referred to as “THF”) (200 ml) were placed in a 1000-ml three-necked flask equipped with a 200-ml dropping funnel and a reflux tube. The solution was cooled to −78° C., and a solution (200 ml) of n-butyllithium (2.6 M) in n-hexane was added dropwise to the cooled solution over a period of about one hr. After the completion of the dropwise addition, the mixture was stirred at −78° C. for about one hr. Thereafter, the reaction temperature was raised to room temperature. At that temperature, the mixture was again stirred for one hr, and 1-bromooctane (91.8 g, 0.475 mol) was added dropwise thereto at 0° C. over a period of about one hr. After the completion of the dropwise addition, the reaction temperature was raised to room temperature, and, at that temperature, the mixture was stirred overnight. After the completion of the reaction, water (200 ml) was added, and the organic layer was extracted with diethyl ether, was dried over sodium sulfate, and was applied to column chromatography (n-hexane) to give an objective compound 2-octylthiophene as a yellow liquid (99.9 g, yield 97.8%). An NMR spectrum of the compound thus obtained was measured at room temperature with an NMR spectrometer (model JNM-LA400W, manufactured by Japan Electric Optical Laboratory). 1H-NMR (CDCl3, TMS/ppm): 0.88 (t, 3H, J=6.83 Hz), 1.28 (m, 10H), 1.67 (m, 2H), 2.81 (t, 2H, J=7.32 Hz), 6.77 (dd, 1H, J=0.976 Hz, J=3.90 Hz), 6.91 (dd, 1H, J=3.90 Hz, J=4.88 Hz), 7.10 (dd, 1H, J=0.976 Hz, J=4.88 Hz).

reactant | Thiophene | 0.713 mol, 59.9 g | S1C=CC=C1 | C4H4S
reactant | THF | C1CCOC1 | C4H8O
reactant | n-butyllithium | 2.6 M, 200 ml | C(CCC)[Li]
reactant | 1-bromooctane | 0.475 mol, 91.8 g | BrCCCCCCCC | C8H17Br
solvent | n-hexane | CCCCCC | C6H14
solvent | water | 200 ml | O | H2O
product | 2-octylthiophene | 99.9 g, yield 97.8% | C(CCCCCCC)C=1SC=CC1 | C12H20S
